US08614209B2
{5-[1-(2-Morpholin-4-yl-ethyl)-1H-pyrazol-4-yl]-thiophen-3-yl}-(octahydro-quinolin-1yl)-methanone formate (FF-14) (CIS ISOMERS)
cis-(5-Bromo-thiophen-3-yl)-(octahydro-quinolin-1-yl)-methanone (0.06 g, 0.18 mmol) was mixed with 4-{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-ethyl}-morpholine (0.062 g, 0.2 mmol), tricyclohexylphosphine (0.004 g, 0.01 mmol), potassium phosphate (0.047 g, 0.22 mmol) and tris(dibenzylideneacetone)dipalladium (0) (0.007 g, 0.008 mmol) in DME (2 mL), IMS (0.5 mL) and water (0.25 mL). The reaction mixture was purged with argon then heated by microwave irradiation to 140° C. for 20 minutes. The resultant mixture was diluted with water and extracted with DCM (×2) then the organic phase was dried over sodium sulfate, filtered and the solvent evaporated. The residue was purified by HPLC, eluting with 10%-98% acetonitrile in water (0.1% formic acid) over 20 minutes. The fractions containing the desired product were freeze-dried to give the title compound (0.029 g). LCMS m/z 429.25 [M+H]+ R.T.=7.03 min (Analytical Method 2).

reactant | cis-(5-Bromo-thiophen-3-yl)-(octahydro-quinolin-1-yl)-methanone | 0.18 mmol, 0.06 g | BrC1=CC(=CS1)C(=O)N1CCC[C@@H]2CCCC[C@H]12 | C14H18BrNOS
reactant | 4-{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-ethyl}-morpholine | 0.2 mmol, 0.062 g | CC1(OB(OC1(C)C)C=1C=NN(C1)CCN1CCOCC1)C | C15H26BN3O3
reactant | tricyclohexylphosphine | 0.01 mmol, 0.004 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 0.22 mmol, 0.047 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | water | 0.25 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.008 mmol, 0.007 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | {5-[1-(2-Morpholin-4-yl-ethyl)-1H-pyrazol-4-yl]-thiophen-3-yl}-(octahydro-quinolin-1yl)-methanone formate | 0.029 g | C(=O)O.N1(CCOCC1)CCN1N=CC(=C1)C1=CC(=CS1)C(=O)N1CCCC2CCCCC12 | InChI=1S/C23H32N4O2S.CH2O2/c28-23(27-7-3-5-18-4-1-2-6-21(18)27)19-14-22(30-17-19)20-15-24-26(16-20)9-8-25-10-12-29-13-11-25;2-1-3/h14-18,21H,1-13H2;1H,(H,2,3)
